US06489314B1
(c) (4R,5S,6S)-3-oxo-5-(2,2,2-trichloroethoxycarbonyloxy)-2,2,4,6-tetramethyl-8-nonenal
A mixture of (4R,5S,6S)-1,1-diisopropoxy-5-(2,2,2-trichloroethoxycarbonyloxy)-2,2,4,6-tetramethyl-8-nonen-3-one (4.58 g) and p-toluenesulfonic acid monohydrate (0.45 g) in 100 mL of 3:1 THF/water is heated at reflux for 7 hours. The mixture is cooled and poured into sat. aq. NaHCO3, then extracted with ethyl acetate. The extract is dried over Na2SO4, filtered, and evaporated. The product is purified by chromatography on SiO2 (3% ethyl acetate/hexanes).

reactant | (4R,5S,6S)-1,1-diisopropoxy-5-(2,2,2-trichloroethoxycarbonyloxy)-2,2,4,6-tetramethyl-8-nonen-3-one | 4.58 g | C(C)(C)OC(C(C([C@@H]([C@H]([C@H](CC=C)C)OC(=O)OCC(Cl)(Cl)Cl)C)=O)(C)C)OC(C)C | C22H37Cl3O6
reactant | p-toluenesulfonic acid monohydrate | 0.45 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF water | 100 mL | C1CCOC1.O
product | (4R,5S,6S)-3-oxo-5-(2,2,2-trichloroethoxycarbonyloxy)-2,2,4,6-tetramethyl-8-nonenal | O=C(C(C=O)(C)C)[C@@H]([C@H]([C@H](CC=C)C)OC(=O)OCC(Cl)(Cl)Cl)C | C16H23Cl3O5
